US05047404
3-Methoxy-8-oxo-6-(2-propoxyphenyl)-7,8-dihydropyrimido[4,5-e][1,2,4]triazine
In a similar manner to Example 11, 3-methylthio-8-oxo-6-(2-propoxyphenyl)-7,8-dihydropyrimido[4,5-e][1,2,4]triazine (0.5 g) was treated for 3 hours with sodium methoxide (prepared from sodium, 0.17 g, and methanol) to afford the title compound, 0.34 g, m.p. 234°-235° C. (recrystallised from methanol).

reactant | 3-methylthio-8-oxo-6-(2-propoxyphenyl)-7,8-dihydropyrimido[4,5-e][1,2,4]triazine | 0.5 g | CSC=1N=NC2=C(N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C15H15N5O2S
reactant | sodium methoxide | 0.17 g | C[O-].[Na+]
product | 3-Methoxy-8-oxo-6-(2-propoxyphenyl)-7,8-dihydropyrimido[4,5-e][1,2,4]triazine | COC=1N=NC2=C(N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C15H15N5O3
